US06103708
2'-[2-Methoxyethoxymethoxy)[-1,1';3',1"]terphenyl-5'-carbaldehyde
The title compound was prepared according to the procedure in Example 2, step 3 using 3,5-diiodo-4-(2-methoxyethoxymethoxy)benzaldehyde (4.029 g, 8.721 mmol), phenylboronic acid (2.339 g, 19.19 mmol), palladium(II) acetate (39.16 mg, 0.174 mmol) in DME:H2O. Purification on Biotage KP-Sil eluting with 15% EtOAc/pet. ether gave 1.803 g, (57%) of the title compound. 1H NMR (DMSO-d6) δ 2.78-2.82 (m, 2 H), 2.89-2.92 (m, 2 H), 3.01 (s, 3 H), 4,42 (s, 2 H), 7.40-7.54 (m, 6 H), 7.62-7.65 (m, 4 H), 7.91 (s, 2 H), 10.06 (s, 1 H).

reactant | 3,5-diiodo-4-(2-methoxyethoxymethoxy)benzaldehyde | 8.721 mmol, 4.029 g | IC=1C=C(C=O)C=C(C1OCOCCOC)I | C11H12I2O4
reactant | phenylboronic acid | 19.19 mmol, 2.339 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | H2O | O | H2O
solvent | DME | COCCOC | C4H10O2
catalyst | palladium(II) acetate | 0.174 mmol, 39.16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2'-[2-Methoxyethoxymethoxy)[-1,1';3',1"]terphenyl-5'-carbaldehyde | 57% | COCCOCOC1=C(C=C(C=C1C1=CC=CC=C1)C=O)C1=CC=CC=C1 | C23H22O4
